US08802697B2
The starting material 1-(tert-butyl)-3-(2-((4-(diethylamino)butyl)amino)-6-(3,5-dimethoxyphenyl)pyrido[2,3-d]pyrimidin-7-yl)urea (PD173074) can be purchased from, e.g., SelleckChem.com. In a dried vessel, acryloyl chloride (2 equiv.) and diisopropylethylamine (4.3 equiv.) are added to a solution of 1-(tert-butyl)-3-(2-((4-(diethylamino)butyl)amino)-6-(3,5-dimethoxyphenyl)pyrido[2,3-d]pyrimidin-7-yl)urea (1 equiv.) in anhydrous dichloromethane at 0° C. After stirring at room temperature for 2 hours, the reaction mixture is concentrated, diluted with DMSO and purified by reverse phase HPLC (5-95% water/acetonitrile). After concentrating the fractions, the product N-(7-(3-(tert-butyl)ureido)-6-(3,5-dimethoxyphenyl)pyrido[2,3-d]pyrimidin-2-yl)-N-(4-(diethylamino)butyl)acrylamide is obtained as a pale yellow foam. LCMS (M+1)=578.2.

reactant | 1-(tert-butyl)-3-(2-((4-(diethylamino)butyl)amino)-6-(3,5-dimethoxyphenyl)pyrido[2,3-d]pyrimidin-7-yl)urea | C(C)(C)(C)NC(=O)NC=1C(=CC2=C(N=C(N=C2)NCCCCN(CC)CC)N1)C1=CC(=CC(=C1)OC)OC | C28H41N7O3
reactant | acryloyl chloride | 2 equiv. | C(C=C)(=O)Cl | C3H3ClO
reactant | diisopropylethylamine | 4.3 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(tert-butyl)-3-(2-((4-(diethylamino)butyl)amino)-6-(3,5-dimethoxyphenyl)pyrido[2,3-d]pyrimidin-7-yl)urea | 1 equiv. | C(C)(C)(C)NC(=O)NC=1C(=CC2=C(N=C(N=C2)NCCCCN(CC)CC)N1)C1=CC(=CC(=C1)OC)OC | C28H41N7O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(7-(3-(tert-butyl)ureido)-6-(3,5-dimethoxyphenyl)pyrido[2,3-d]pyrimidin-2-yl)-N-(4-(diethylamino)butyl)acrylamide | C(C)(C)(C)NC(NC=1C(=CC2=C(N=C(N=C2)N(C(C=C)=O)CCCCN(CC)CC)N1)C1=CC(=CC(=C1)OC)OC)=O | C31H43N7O4
